US06548493B1
To a solution of tert-butyl(6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (0.600 g, 1.59 mmol) in DME (35 mL) was added 2-formyl-4-methoxybenzeneboronic acid (0.344 g, 1.91 mmol), tetrakis(triphenylphosphine)palladium(0) (0.110 g), barium hydroxide octahydrate (0.753 g, 2.39 mmol), and H2O (10 mL). The combined mixture was refluxed for 20 h. Once at room temperature, the mixture was taken up in H2O (300 mL) and extracted with EtOAc (3×100 mL). The combined extracts were dried over MgSO4 and stripped of solvent under reduced pressure. Purification by normal phase HPLC using 25% EtOAc in hexanes afforded 0.280 g (41%) of tert-butyl (6aS,10aR)-2-(2-formyl-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate.

reactant | tert-butyl(6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 1.59 mmol, 0.600 g | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-formyl-4-methoxybenzeneboronic acid | 1.91 mmol, 0.344 g | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | barium hydroxide octahydrate | 2.39 mmol, 0.753 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | DME | 35 mL | COCCOC | C4H10O2
solvent | H2O | 300 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.110 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 10 mL | O | H2O
product | tert-butyl (6aS,10aR)-2-(2-formyl-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.280 g, 41% | C(=O)C1=C(C=CC(=C1)OC)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C26H30N2O4
